US04832736
(R)(+)-2-[4-(5-chloro-3-fluoropyridin-2-yloxy)-phenoxy]-propionic acid methyl ester
A solution of 24 g (0.1 mol) of 4-(5-chloro-3-fluoropyridin-2-yloxy)-phenol in 80 ml of dimethylsulfoxide is added dropwise to a stirred solution of 13.8 g (0.1 mol) of potassium carbonate in 50 ml of dimethylsulfoxide. When everything is added, the mixture is stirred for 2 hours at room temperature and then 25.8 g (0.1 mol) of (S)(-)-lactic acid-methylester tosylate is added dropwise over 30 minutes. The mixture is heated to 60° and stirred at that temperature for 20 hours, then poured onto ice/water and the organic material is extracted three times with ether. The ether-layer is washed with water and saturated salt solution, dried over magnesium sulfate, filtered and evaporated. The residue is passed for purification through a silicagel column with a hexane/ethyl acetate 3:1 solvent. After distillation of the solvent, 26 g of a clear oil of the above ester is obtained ([α]D20 =+38.8±0.5° 2% in acetone).

reactant | 4-(5-chloro-3-fluoropyridin-2-yloxy)-phenol | 0.1 mol, 24 g | ClC=1C=C(C(=NC1)OC1=CC=C(C=C1)O)F | C11H7ClFNO2
reactant | potassium carbonate | 0.1 mol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | (S)(-)-lactic acid-methylester tosylate | 0.1 mol, 25.8 g | S(=O)(=O)(O)C1=CC=C(C)C=C1.COC([C@@H](O)C)=O
solvent | dimethylsulfoxide | 80 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
product | (R)(+)-2-[4-(5-chloro-3-fluoropyridin-2-yloxy)-phenoxy]-propionic acid methyl ester | COC([C@@H](C)OC1=CC=C(C=C1)OC1=NC=C(C=C1F)Cl)=O | C15H13ClFNO4
